US07491718B2
methyl 2-[(2-pyridinylsulfonyl)amino]-1-naphthoate
A solution of methyl 2-amino-1-naphthoate (85 mg, 0.42 mmol) and 2-pyridinesulfonyl chloride (244 mg, 1.3 mmol) in dichloromethane (1.0 mL) was treated with pyridine (0.15 mL, 1.3 mmol), stirred for 15 minutes, treated with dichloromethane (30 mL), washed with 1N HCl (2×20 mL), and concentrated. The crude product was chromatographed on a silica gel column eluting with 30% ethyl acetate/hexanes to provide the desired product (120 mg, 83.5%). 1H NMR (CDCl3) δ 4.09 (s, 3H), 7.35-7.55 (m, 3H), 7.75-7.96 (m, 5H), 8.16 (d, 1H), 8.59 (d, 1H), 9.46 (s, 1H); MS (DCI/NH3) m/e 343 (M+H)+.

reactant | methyl 2-amino-1-naphthoate | 0.42 mmol, 85 mg | NC1=C(C2=CC=CC=C2C=C1)C(=O)OC | C12H11NO2
reactant | 2-pyridinesulfonyl chloride | 1.3 mmol, 244 mg | N1=C(C=CC=C1)S(=O)(=O)Cl | C5H4ClNO2S
reactant | pyridine | 1.3 mmol, 0.15 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | methyl 2-[(2-pyridinylsulfonyl)amino]-1-naphthoate | 120 mg, 83.5% | N1=C(C=CC=C1)S(=O)(=O)NC1=C(C2=CC=CC=C2C=C1)C(=O)OC | C17H14N2O4S
